US09382216B2
Step-1: 4-(3-Fluorophenyl)-N-((R)-1-(naphthalen-1-yl)ethyl)morpholine-2-carboxamide
A mixture solution of N-((R)-1-(naphthalen-1-yl)ethyl)morpholine-2-carboxamide (Intermediate-2) (300 mg, 1.056 mmol) in toluene (10 mL), bis(tri-tert butyl phosphine) Pd(0) (0.10, 54 mg), trisdibenzylidene acetone dipalladium(0) (48 mg, 0.0528 mmol), 1-fluoro-3-iodobenzene (0.15 ml, 1.26 mmol) and Cs2CO3 (516 mg, 1.58 mmol) were added. The reaction mass was heated to 110° C. and further maintained for 15 h under nitrogen atmosphere. The mixture was diluted with ethyl acetate, filtered through celite bed, and concentrated under vacuum. It was further purified by column chromatography on silica gel using a mixture of ethyl acetate and hexane as eluent to afford title compound as oily mass (250 mg), m/z: 379.2.

reactant | N-((R)-1-(naphthalen-1-yl)ethyl)morpholine-2-carboxamide | 1.056 mmol, 300 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC(=O)C1CNCCO1 | C17H20N2O2
reactant | 1-fluoro-3-iodobenzene | 1.26 mmol, 0.15 ml | FC1=CC(=CC=C1)I | C6H4FI
reactant | Cs2CO3 | 1.58 mmol, 516 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Fluorophenyl)-N-((R)-1-(naphthalen-1-yl)ethyl)morpholine-2-carboxamide | FC=1C=C(C=CC1)N1CC(OCC1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12 | C23H23FN2O2
